US06630004B1
Synthesis of Nε-(4-Amino-2-pyridyl)-L-lysine Trihydrochloride
4 g (14.9 mmol) of Nε-(4-nitro-2-pyridyl)-L-lysine are suspended in 80 ml of ethanol and 8 ml of water in a 100 ml three-necked flask equipped with a thermometer and a reflux condenser. 6 g of palladium-on-charcoal (10% active and 50% moisture) are then introduced, followed by 40 ml of cyclohexene. The mixture is brought to reflux for 2 hours and is then cooled, before being filtered through celite. After having run 60 ml (4 eq) of 1N hydrochloric acid onto the filtrate, the latter is evaporated to dryness and the residue is taken up in ethanol and precipitated from acetone. After filtration, 3.4 g of product are obtained, i.e. a final yield of 66%.

reactant | Nε-(4-nitro-2-pyridyl)-L-lysine | 14.9 mmol, 4 g | [N+](=O)([O-])C1=CC(=NC=C1)NCCCC[C@H](N)C(=O)O | C11H16N4O4
reactant | water | 8 ml | O | H2O
reactant | cyclohexene | 40 ml | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | 1N, 60 ml, 4 eq | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 6 g | [Pd] | Pd
product | Nε-(4-Amino-2-pyridyl)-L-lysine Trihydrochloride | yield of 66% | Cl.Cl.Cl.NC1=CC(=NC=C1)NCCCC[C@H](N)C(=O)O | InChI=1S/C11H18N4O2.3ClH/c12-8-4-6-15-10(7-8)14-5-2-1-3-9(13)11(16)17;;;/h4,6-7,9H,1-3,5,13H2,(H,16,17)(H3,12,14,15);3*1H/t9-;;;/m0.../s1
